US05183921
To 2-phenoxybenzaldehyde (4.96 g, 0.025 mole) were added anhydrous methanol (50 ml) and hydroxylamine hydrochloride (2.08 g, 0.03 mole), and the mixture was stirred at 60° C. for 3 hours. After completion of the reaction, water (200 ml) was added to the reaction mixture, which was extracted with methylene chloride and dried over magnesium sulfate. The crude product obtained by concentration under reduced pressure was purified by silica gel chromatography (ethyl acetate/n-hexane) to obtain 2-phenoxybenzaldoxime (3.95 g, yield: 74.1%) as a colorless oil.

reactant | 2-phenoxybenzaldehyde | 0.025 mole, 4.96 g | O(C1=CC=CC=C1)C1=C(C=O)C=CC=C1 | C13H10O2
reactant | methanol | 50 ml | CO | CH4O
reactant | hydroxylamine hydrochloride | 0.03 mole, 2.08 g | Cl.NO
solvent | water | 200 ml | O | H2O
product | 2-phenoxybenzaldoxime | 3.95 g, yield: 74.1% | O(C1=CC=CC=C1)C1=C(C=NO)C=CC=C1 | C13H11NO2
